US05712267
(2S,4S)-2-[cis-3,5-Dimethylpiperazin-1-ylcarbonyl)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 8, but using 3.3 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 1.4 g of N,N'-carbonyldiimidazole and 1.0 g of cis-2,6-dimethylpiperazine, 1.56 g of the title compound was obtained as an amorphous solid.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 3.3 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | cis-2,6-dimethylpiperazine | 1.0 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
product | (2S,4S)-2-[cis-3,5-Dimethylpiperazin-1-ylcarbonyl)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.56 g | C[C@@H]1CN(C[C@@H](N1)C)C(=O)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H26N4O5S
